US06147111
Ethyl hydrogen 2-(4,5-methylenedioxy-2-methoxybenzyl)-malonate
To a solution of the diethyl 2-(4,5-methylenedioxy-2-methoxybenzyl)-malonate (20.00 g, 0.066 mol) of in ethanol (50 mL) was added a solution of potassium hydroxide (3.50 g, 0.066 mol) in water (25 mL). The solution stirred at reflux for 6 h. After cooling the aqueous layer was washed with ether and acidified with concentrated HCl to pH 1 and extracted with ethyl acetate. The organic extracts were dried (Na2SO4) and concentrated to afford the title compound as a yellow solid (17.30 g, 89%): 1H NMR (400 MHz, CDCl3) δ 10.20 (b, 1H), 6.68 (s, 1H), 6.50 (s, 1H), 5.90 (s, 2H), 4.15 (q, 2H), 3.72 (s, 3H), 3.10 (dd, 2H), 1.20 (t, 3H); MS(ESI) m/e 297.0 [M+H]+.

reactant | diethyl 2-(4,5-methylenedioxy-2-methoxybenzyl)-malonate | 0.066 mol, 20.00 g | C1OC2=CC(=C(CC(C(=O)OCC)C(=O)OCC)C=C2O1)OC | C16H20O7
reactant | potassium hydroxide | 0.066 mol, 3.50 g | [OH-].[K+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 25 mL | O | H2O
product | Ethyl hydrogen 2-(4,5-methylenedioxy-2-methoxybenzyl)-malonate | 17.30 g, 89% | C1OC2=CC(=C(CC(C(=O)OCC)C(=O)O)C=C2O1)OC | C14H16O7
